US08614010B2
In a stream of argon, 670 g of carbazole, 850 kg of iodobenzene, 20 L of xylene, 460 g of t-BuONa, and palladium acetate (Pd(OAc)2) were loaded, and then the mixture was refluxed for 8 hours. Impurities were filtrated, and then the filtrate was concentrated under reduced pressure and washed with hexane. After that, the washed product was dried. As a result, 820 g of phenylcarbazole were obtained as a white powder. A reaction was performed in the same manner as in the synthesis of Intermediate 1-1 except that phenylcarbazole was used instead of 4-bromobiphenyl. As a result, 650 g of a white powder were obtained. The powder was identified as Intermediate 1-11 by FD-MS analysis.

reactant | carbazole | 670 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | iodobenzene | 850 kg | IC1=CC=CC=C1 | C6H5I
reactant | t-BuONa | 460 g | C(C)(C)(C)O[Na]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | xylene | 20 L | C=1(C(=CC=CC1)C)C | C8H10
product | phenylcarbazole | 820 g | C1(=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3NC12 | C18H13N
